US05326765
2-Amino-4,5-dimethoxyacetophanone oxime (1.0 g, 4.76 mmol) was suspended in 35 ml toluene, and cyclopentanone (0.42 ml, 4.76 mmol) was added, followed by 10 mg of p- toluenesulfonic acid. The mixture was stirred at 55° C. for 24 hours. The resultant solid was collected by filtration and recrystallized from ethyl acetate-ethanol (39% yield). m.p. 225°-227 C.

reactant | cyclopentanone | 4.76 mmol, 0.42 ml | C1(CCCC1)=O | C5H8O
reactant | p- toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl acetate ethanol | 39% yield | C(C)(=O)OCC.C(C)O | InChI=1S/C4H8O2.C2H6O/c1-3-6-4(2)5;1-2-3/h3H2,1-2H3;3H,2H2,1H3
